US06509354B1
1.8 g (6.8 mmol) of 4-(5-trifluoromethylpyridin-2-yl)-2-fluorobenzonitrile, 1.6 g (7.6 mmol) of S-cyclopropylmethylisothiourea hydrobromide salt and 50 ml of N,N-dimethylformamide were put into a round-bottomed flask and stirred together with 1.6 g (8 mmol) of 20% aqueous sodium hydroxide overnight. The solvent was distilled off under reduced pressure, and the reaction mixture was separated with 50 ml of water and 50 ml of ethyl acetate. The organic layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 2.2 g of 2-cyclopropylmethylthio-4-(5-trifluoromethylpyridin-2-yl)benzonitrile (yield 96%) as pale yellow feathery crystals (m.p. 135-136° C.).

reactant | 4-(5-trifluoromethylpyridin-2-yl)-2-fluorobenzonitrile | 6.8 mmol, 1.8 g | FC(C=1C=CC(=NC1)C1=CC(=C(C#N)C=C1)F)(F)F | C13H6F4N2
reactant | S-cyclopropylmethylisothiourea hydrobromide salt | 7.6 mmol, 1.6 g | Br.C1(CC1)CSC(N)=N
reactant | sodium hydroxide | 8 mmol, 1.6 g | [OH-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-cyclopropylmethylthio-4-(5-trifluoromethylpyridin-2-yl)benzonitrile | 2.2 g, yield 96% | C1(CC1)CSC1=C(C#N)C=CC(=C1)C1=NC=C(C=C1)C(F)(F)F | C17H13F3N2S
